US08541448B2
Intermediate 60.1: tert-butyl 4-(3-bromophenyl)piperazine-1-carboxylate
Into a 250-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed copper(I) iodide (1.0 g, 5.26 mmol, 0.20 equiv), L-proline (930 mg, 8.09 mmol, 0.30 equiv) in DMSO (50 mL). The resulting solution was stirred for 15 min at room temperature. Then, tert-butyl piperazine-1-carboxylate (5 g, 26.88 mmol, 1.00 equiv), 1,3-dibromobenzene (9.5 g, 40.25 mmol, 1.50 equiv), potassium carbonate (7.4 g, 53.62 mmol, 1.99 equiv) was added. The resulting solution was stirred overnight at 90° C. The reaction was then quenched by the addition of 100 mL of water. The resulting solution was extracted with 2×100 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:6). This resulted in 2.9 g of tert-butyl 4-(3-bromophenyl)piperazine-1-carboxylate as a white solid.

reactant | L-proline | 8.09 mmol, 930 mg, 0.30 equiv | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | tert-butyl piperazine-1-carboxylate | 26.88 mmol, 5 g, 1.00 equiv | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1,3-dibromobenzene | 40.25 mmol, 9.5 g, 1.50 equiv | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | potassium carbonate | 53.62 mmol, 7.4 g, 1.99 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 5.26 mmol, 1.0 g, 0.20 equiv | [Cu]I
product | tert-butyl 4-(3-bromophenyl)piperazine-1-carboxylate | BrC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21BrN2O2
